US08076516B2
Preparation of 2-(3-(3-aminopropyl)phenyl)hexan-2-ol
Deprotection of 2-(3-(3-(2-hydroxyhexan-2-yl)phenyl)propyl)isoindoline-1,3-dione followed by flash chromatography (0-10% (7N NH3/MeOH)/ethyl acetate gradient), gave Example 120 a colorless oil. Yield (0.157 g, 90%): 1H NMR (400 MHz, CDCl3) δ 7.20-7.27 (m, 3H), 7.03-7.07 (m, 1H), 2.73 (t, J=7.2 Hz, 2H), 2.66 (t, J=8.0 Hz, 2H), 1.70-1.84 (m, 4H), 1.53 (s, 3H), 1.42 (brs, 3H), 1.18-1.30 (m, 3H), 1.06-1.16 (m, 1H), 0.84 (t, J=7.2 Hz, 3H). ESI MS m/z 236.2 [m+H]+, 218.2 [m+H−H2O].

reactant | 2-(3-(3-(2-hydroxyhexan-2-yl)phenyl)propyl)isoindoline-1,3-dione | OC(C)(CCCC)C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C23H27NO3
reactant | NH3 MeOH | 7N | N.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-(3-aminopropyl)phenyl)hexan-2-ol | NCCCC=1C=C(C=CC1)C(C)(CCCC)O | C15H25NO
